US07897609B2
To a solution of cyclopentanone (40.0 mL, 452 mmol) in nitromethane (36 mL) and ethanol (14 mL) was added a solution of sodium ethoxide in ethanol (2.67 M, 8.5 mL, 23 mmol). The solution was stirred for five days at room temperature. Water (400 mL) was added, and the mixture was extracted with ethyl acetate (2×350 mL). The combined organic extracts were washed with water (2×200 mL) and brine (200 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The starting materials and solvent were removed from the product by distillation under reduced pressure to yield 8.3 g of 1-(nitromethyl)cyclopentanol as a yellow liquid.

reactant | cyclopentanone | 452 mmol, 40.0 mL | C1(CCCC1)=O | C5H8O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | Water | 400 mL | O | H2O
reactant | nitromethane | 36 mL | [N+](=O)([O-])C | CH3NO2
solvent | ethanol | 14 mL | C(C)O | C2H6O
solvent | ethanol | 23 mmol, 2.67 M, 8.5 mL | C(C)O | C2H6O
product | 1-(nitromethyl)cyclopentanol | 8.3 g | [N+](=O)([O-])CC1(CCCC1)O | C6H11NO3
